US09283229B2
Step 2: Synthesis of ethyl 2-(3-ethylphenyl)acetate
To a solution of ethyl 2-(3-vinylphenyl)acetate (640 mg, 3.6 mmol) in ethanol (10 mL) was added 10% of Pd/C (100 mg) and stirred at 30° C. under hydrogen atmosphere (15 psi) for 7 hours. Then the solution was filtered and the solvent was removed in vacuo (500 mg, yield 77%).

reactant | ethyl 2-(3-vinylphenyl)acetate | 3.6 mmol, 640 mg | C(=C)C=1C=C(C=CC1)CC(=O)OCC | C12H14O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | ethyl 2-(3-ethylphenyl)acetate | yield 77% | C(C)C=1C=C(C=CC1)CC(=O)OCC | C12H16O2
